US07544693B2
Ethyl 3-hydroxyfuro[3,2-c]pyridine-2-carboxylate (5.79 g, 27.9 mmol) was dissolved in 10% hydrochloric acid (50 mL), and heated under reflux for 40 h. The reaction mixture was evaporated to dryness. The residue was suspended in saturated sodium bicarbonate solution and extracted with chloroform 3 times. The chloroform extracts were combined, dried (MgSO4), filtered, and evaporated to give furo[3,2-c]pyridin-3(2H)-one (570 mg) as a light-brown oil. N,N-Diisopropylethylamine (616 mg, 4.77 mmol) was added slowly to a solution of furo[3,2-c]pyridin-3(2H)-one (560 mg, 4.14 mmol) in dry methylene chloride (25 mL) under nitrogen at −10° C. Then trifluoromethanesulfonic anhydride (1.40 g, 4.97 mmol) was added slowly. The mixture was allowed to warm to RT, and stirred for another 1 g. The reaction was quenched with water. The organic layer was washed with water, dried (MgSO4), filtered, and then the solvent was evaporated to give the sub-title compound as a brown oily residue (1.10 g), which was used without further purification for the next step.

reactant | Ethyl 3-hydroxyfuro[3,2-c]pyridine-2-carboxylate | 27.9 mmol, 5.79 g | OC1=C(OC2=C1C=NC=C2)C(=O)OCC | C10H9NO4
solvent | hydrochloric acid | 50 mL | Cl | ClH
product | furo[3,2-c]pyridin-3(2H)-one | 570 mg | O1CC(C=2C=NC=CC21)=O | C7H5NO2
